US09284331B2
Step 2: rac-2-(4-ethyl-1H-imidazol-1-yl)-9-(1-hydroxyethyl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one.
Example 115. A solution of 9-acetyl-2-(4-ethyl-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one (210 mg, 0.36 mmol) in MeOH (20 mL) was treated with NaBH3CN (23 mg, 0.36 mmol) and the mixture was stirred at RT for 10 min. The mixture was then concentrated in vacuo and the residue obtained was taken up in DCM and washed with H2O. The org layer was then dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography (SiO2, heptane to AcOEt to AcOEt/MeOH 85:15) and preparative TLC (SiO2, DCM/MeOH 95:5) afforded the title compound (6 mg). UPLC-MS: MS 351.2 (M+H+); UPLC rt 0.65 min. 1H NMR (400 MHz, CD3OD): δ ppm 1.16-1.27 (m, 3 H); 1.44 (d, J=6.26 Hz, 3 H); 2.58 (q, J=7.56 Hz, 2 H); 2.97-3.17 (m, 2 H); 3.80 (m, 1 H); 3.88-4.00 (m, 2 H); 4.31-4.36 (m, 2 H); 5.14 (d, J=6.65 Hz, 1 H); 6.95 (s, 1 H); 7.34 (s, 1 H); 7.37-7.49 (m, 1 H); 7.67 (d, J=7.43 Hz, 1 H); 7.77 (d, J=7.82 Hz, 1 H); 8.11 (s, 1 H).

reactant | 9-acetyl-2-(4-ethyl-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 0.36 mmol, 210 mg | C(C)(=O)C1=C2CCN3C(C2=CC=C1)=CC(=NCC3=O)N3C=NC(=C3)CC | C20H20N4O2
reactant | NaBH3CN | 0.36 mmol, 23 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 20 mL | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | rac-2-(4-ethyl-1H-imidazol-1-yl)-9-(1-hydroxyethyl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 6 mg | C(C)C=1N=CN(C1)C1=NCC(N2C(C3=CC=CC(=C3CC2)C(C)O)=C1)=O | C20H22N4O2
